US04950674
4-(3-Chloropropoxy)benzoic acid ethyl ester
Ethyl, 4-hydroxybenzoate 83.1 g (0.50 mole), 107 ml (1.0 mole) of 1-bromo-3-chloropropane, and potassium carbonate (1.5 mole, 207.3 g) were mechanically stirred in 600 ml of refluxing acetone under nitrogen overnight. The potassium carbonate was removed by filtration, and the filtrate was evaporated under reduced pressure to give 122 g of a liquid. This liquid was dissolved in 250 ml of petroleum ether and with stirring and cooling in an ice/2-propanol bath. A white precipitate formed and was collected by filtration and washed with cold petroleum ether to yield 108 g of a solid. An additional 6 g of the product was obtained from the mother liquor. A small sample of the solid was dissolved in petroleum ether at room temperature. The solution was stirred and cooled in an ice bath. White crystals were collected by filtration, washed with cold petroleum ether and dried under vacuum at room temperature, m.p. 24°-25° C.

reactant | 4-hydroxybenzoate | 0.50 mole, 83.1 g | OC1=CC=C(C(=O)[O-])C=C1
reactant | 1-bromo-3-chloropropane | 1.0 mole, 107 ml | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 1.5 mole, 207.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 600 ml | CC(=O)C | C3H6O
product | 4-(3-Chloropropoxy)benzoic acid ethyl ester | 122 g | C(C)OC(C1=CC=C(C=C1)OCCCCl)=O | C12H15ClO3
